US08314100B2
1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine (Compound 123)
Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate and 1-(4-acetylphenyl)piperazine were reacted by the same way with the example 106 to obtain the titled compound (yield, 81%). 1H NMR (300 MHz, CDCl3): δ 2.54 (s, 3H), 3.50 (s, 4H), 3.79 (s, 4H), 4.15 (s, 3H), 6.89 (d, J=9.0 Hz, 2H), 7.31-7.50 (m, 2H), 7.65-7.75 (m, 2H), 7.90 (d, J=8.7 Hz, 2H).

reactant | Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12ClN3O3
reactant | 1-(4-acetylphenyl)piperazine | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
product | 1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine | 81% | ClC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O)OC | C22H22ClN5O3
